US05246948
Synthesis of 4-[4-(isoindolin-1-on-2-yl)butylthio]pyridine
To a solution of 1.58 g (5.0 mmol) of 4-[4-(2-hydroxymethylbenzoyl)aminobutylthio]pyridine and 2.09 ml (15.0 mmol) of triethylamine in 50 ml of methylene chloride, 0.77 ml (10.0 mmol) of methanesulfonyl chloride was added with stirring at room temperature, and the mixture was stirred at room temperature for 30 minutes. The mixture was washed with saturated aqueous sodium bicarbonate, water and saturated saline, and dried over anhydrous magnesium sulfate. The solvent was distilled off and the residue was purified by column chromatography (eluent: ethyl acetate) to give 1.075 g of the desired compound (72.1% yield, pale brown crystals), mp. 57°-58° C.

reactant | 4-[4-(2-hydroxymethylbenzoyl)aminobutylthio]pyridine | 5.0 mmol, 1.58 g | OCC1=C(C(=O)NCCCCSC2=CC=NC=C2)C=CC=C1 | C17H20N2O2S
reactant | triethylamine | 15.0 mmol, 2.09 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 10.0 mmol, 0.77 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 4-[4-(isoindolin-1-on-2-yl)butylthio]pyridine | 1.075 g, 72.1% yield | C1(N(CC2=CC=CC=C12)CCCCSC1=CC=NC=C1)=O | C17H18N2OS
